US04514416
To a mixture of 40 ml of methanol and 20 ml of liquid ammonia, was added 4.0 g of 5-methoxyiminomethylsalicylic acid hydrochloride. The mixture was stirred overnight at room temperature. A colorless gelatinous substance precipitated from the reaction mixture was washed with methanol, and washed with a water-acetone (20 ml-80 ml) mixture to obtain 2.6 g of 5-amidinosalicylic acid.

reactant | ammonia | N | H3N
reactant | 5-methoxyiminomethylsalicylic acid hydrochloride | 4.0 g | Cl.CON=CC1=CC=C(C(C(=O)O)=C1)O
solvent | methanol | 40 ml | CO | CH4O
product | 5-amidinosalicylic acid | 2.6 g | C(N)(=N)C1=CC=C(C(C(=O)O)=C1)O | C8H8N2O3
